US06017919
Benzene (20 ml) and N,N'-dimethylethylenediamine (1.56 ml, 14.7 mmol) were added to 4-methoxybenzaldehyde (2 g, 14.7 mmol), and the m tture was refluxed under heating for 5 hours while removing the generated water. Benzene was evaporated to give a crude product of 2-(4-methoxyphenyl)-1,3-dimethylimidazolidine.

reactant | N,N'-dimethylethylenediamine | 14.7 mmol, 1.56 ml | CNCCNC | C4H12N2
reactant | 4-methoxybenzaldehyde | 14.7 mmol, 2 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | Benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-methoxyphenyl)-1,3-dimethylimidazolidine | COC1=CC=C(C=C1)C1N(CCN1C)C | C12H18N2O
